US07229999B2
A suspension of 5-bromo-6-chloro-nicotinic acid (CAS [29241-62-1], 1 g), benzylalcohol (0.686 g) and KOH (1.104 g) in DMSO (4 ml) was stirred at 140° C. for 15 min. DMSO (2 ml) was added and the mixture was stirred at 140° C. for 30 min. The mixture was cooled to room temperature. Ice was added and the mixture was acidified using 1 M HCl. The mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried, filtered and concentrated. The product was purified by flash chromatography (SiO2, CH2Cl2=>CH2Cl2/MeOH 4:1) to give 6-benzyloxy-5-bromo-nicotinic acid (0.308 g) as a white solid.

reactant | 5-bromo-6-chloro-nicotinic acid | 1 g | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | benzylalcohol | 0.686 g | C(C1=CC=CC=C1)O | C7H8O
reactant | KOH | 1.104 g | [OH-].[K+]
reactant | HCl | 1 M | Cl | ClH
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 6-benzyloxy-5-bromo-nicotinic acid | 0.308 g | C(C1=CC=CC=C1)OC1=NC=C(C(=O)O)C=C1Br | C13H10BrNO3
